US04731393
46.5 g (0.206 mole) of 2,4-bis-allylamino-6-chloro-1,3,5-triazine and 39.5 g (0.1 mole) of N,N'-bis-(2,2,6,6-tetramethylpiperid-4-yl)-hexamethylenediamine are dissolved rapidly by stirring in 200 ml of xylene in an atmosphere of nitrogen, a clear solution being formed initially. A precipitate of the hydrochlorides begins to form after approx. 10-15 minutes. The mixture is stirred for a further 2.5 hours at reflux temperature. A total of 8.8 g (0.22 mole) of finely powdered solid sodium hydroxide is then added in 5 portions in the course of 5 hours, and stirring is continued for a further 10 hours at reflux temperature. The reaction mixture is worked up by being filtered while hot (approx. 125°) through a preheated suction filter, the residue is washed with a little warm xylene, and the filtrate is induced to crystallise by stirring and cooling (0°-5°). The crystalline precipitate is filtered off and recrystallised from special boiling point gasoline (boiling point 110°-140°), which gives N,N'-bis-[2,4-di-(allylamino)-1,3,5-triazin-6-yl]-N,N'-bis-(2,2,6,6-tetramethylpiperid-4-yl)-hexamethylenediamine of melting point 161°-163°. This product is identical with the product prepared in accordance with Example 1b) (stabiliser No. 1).

reactant | 2,4-bis-allylamino-6-chloro-1,3,5-triazine | 0.206 mole, 46.5 g | C(C=C)NC1=NC(=NC(=N1)NCC=C)Cl | C9H12ClN5
reactant | N,N'-bis-(2,2,6,6-tetramethylpiperid-4-yl)-hexamethylenediamine | 0.1 mole, 39.5 g | CC1(NC(CC(C1)NCCCCCCNC1CC(NC(C1)(C)C)(C)C)(C)C)C | C24H50N4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N,N'-bis-[2,4-di-(allylamino)-1,3,5-triazin-6-yl]-N,N'-bis-(2,2,6,6-tetramethylpiperid-4-yl)-hexamethylenediamine | C(C=C)NC1=NC(=NC(=N1)NCC=C)N(CCCCCCN(C1CC(NC(C1)(C)C)(C)C)C1=NC(=NC(=N1)NCC=C)NCC=C)C1CC(NC(C1)(C)C)(C)C | C42H72N14
